* extracted by klt extract --deck gf180mcu

* cell bias_core
* pin BIAS_OK
* pin IBIAS
* pin VDD
* pin VREF
* pin VSS
* pin vsubs
.SUBCKT bias_core BIAS_OK IBIAS VDD VREF VSS vsubs
* device instance $1 r0 *1 159.4,0.5 nfet
M$1 VDD VDD \$17 vsubs nfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $2 r0 *1 170,0.5 nfet
M$2 \$17 \$17 \$18 vsubs nfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $3 r0 *1 180.6,0.5 nfet
M$3 \$18 \$18 \$19 vsubs nfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $4 r0 *1 191.2,0.5 nfet
M$4 \$19 \$19 \$20 vsubs nfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $5 r0 *1 201.8,0.5 nfet
M$5 \$20 \$20 \$21 vsubs nfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $6 r0 *1 223.6,0.5 nfet
M$6 \$3 \$21 VSS vsubs nfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $7 r0 *1 112.4,1 nfet
M$7 \$6 \$6 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $8 r0 *1 119,1 nfet
M$8 \$7 \$6 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $9 r0 *1 210.4,1 nfet
M$9 \$12 \$12 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $10 r0 *1 230.2,1 nfet
M$10 \$15 \$15 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $11 r0 *1 236.8,1 nfet
M$11 \$14 \$15 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $12 r0 *1 241.9,1 nfet
M$12 \$14 \$21 VSS vsubs nfet L=1U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $13 r0 *1 247,1 nfet
M$13 \$16 \$14 VSS vsubs nfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $14 r0 *1 127.6,2 nfet
M$14 \$10 \$10 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $15 r0 *1 138.2,2 nfet
M$15 \$11 \$10 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $16 r0 *1 251.85,2 nfet
M$16 BIAS_OK \$16 VSS vsubs nfet L=0.5U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $17 r0 *1 148.8,4 nfet
M$17 \$3 \$11 VSS vsubs nfet L=8U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $18 r0 *1 217,4 nfet
M$18 \$21 \$12 VSS vsubs nfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $19 r0 *1 68.8,0.5 pfet
M$19 \$12 \$7 VDD \$38 pfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $20 r0 *1 75.4,0.5 pfet
M$20 \$13 \$7 VDD \$38 pfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $21 r0 *1 95.2,0.5 pfet
M$21 \$16 \$7 VDD \$38 pfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $22 r0 *1 101.8,0.5 pfet
M$22 BIAS_OK \$16 VDD \$38 pfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $23 r0 *1 22.6,1 pfet
M$23 \$6 \$3 VDD \$38 pfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $24 r0 *1 29.2,1 pfet
M$24 \$7 \$7 VDD \$38 pfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $25 r0 *1 42.4,1 pfet
M$25 \$9 \$7 VDD \$38 pfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $26 r0 *1 62.2,1 pfet
M$26 \$3 \$7 VDD \$38 pfet L=4U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $27 r0 *1 2.8,4 pfet
M$27 \$35 \$3 VDD \$38 pfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $28 r0 *1 9.4,4 pfet
M$28 \$4 \$3 VDD \$38 pfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $29 r0 *1 16,4 pfet
M$29 VREF \$3 VDD \$38 pfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $30 r0 *1 82,4 pfet
M$30 \$14 \$35 \$13 \$38 pfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $31 r0 *1 88.6,4 pfet
M$31 \$15 \$4 \$13 \$38 pfet L=4U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $32 r0 *1 49,8 pfet
M$32 \$10 \$35 \$9 \$38 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $33 r0 *1 55.6,8 pfet
M$33 \$11 \$23 \$9 \$38 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $34 r0 *1 35.8,20 pfet
M$34 IBIAS \$7 VDD \$38 pfet L=4U W=40U AS=32P AD=32P PS=81.6U PD=81.6U
* device instance $35 r0 *1 278.9,18 bjt
Q$35 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $36 r0 *1 293.9,18 bjt
Q$36 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $37 r0 *1 308.9,18 bjt
Q$37 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $38 r0 *1 278.9,33 bjt
Q$38 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $39 r0 *1 293.9,33 bjt
Q$39 vsubs \$26 \$35 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $40 r0 *1 308.9,33 bjt
Q$40 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $41 r0 *1 323.9,33 bjt
Q$41 vsubs \$26 \$36 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $42 r0 *1 278.9,48 bjt
Q$42 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $43 r0 *1 293.9,48 bjt
Q$43 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $44 r0 *1 308.9,48 bjt
Q$44 vsubs \$26 \$24 bjt AE=100P PE=40U AB=169P PB=52U AC=169P PC=52U NE=1
* device instance $45 r0 *1 292.4,70.7 cap_mim_2f0_m4m5_noshield
C$45 \$40 \$42 7.2e-14 cap_mim_2f0_m4m5_noshield
* device instance $46 r0 *1 276.6,77.7 cap_mim_2f0_m4m5_noshield
C$46 \$39 \$41 8e-13 cap_mim_2f0_m4m5_noshield
* device instance $47 r0 *1 342.9,141.25 ppolyf_u_1k
R$47 VREF \$48 vsubs 128250 ppolyf_u_1k
* device instance $48 r0 *1 345.9,141.25 ppolyf_u_1k
R$48 \$34 \$48 vsubs 128250 ppolyf_u_1k
* device instance $49 r0 *1 348.9,141.25 ppolyf_u_1k
R$49 \$34 \$49 vsubs 128250 ppolyf_u_1k
* device instance $50 r0 *1 351.9,141.25 ppolyf_u_1k
R$50 \$33 \$49 vsubs 128250 ppolyf_u_1k
* device instance $51 r0 *1 354.9,141.25 ppolyf_u_1k
R$51 \$33 \$50 vsubs 128250 ppolyf_u_1k
* device instance $52 r0 *1 357.9,141.25 ppolyf_u_1k
R$52 \$32 \$50 vsubs 128250 ppolyf_u_1k
* device instance $53 r0 *1 360.9,141.25 ppolyf_u_1k
R$53 \$32 \$51 vsubs 128250 ppolyf_u_1k
* device instance $54 r0 *1 363.9,141.25 ppolyf_u_1k
R$54 \$31 \$51 vsubs 128250 ppolyf_u_1k
* device instance $55 r0 *1 366.9,141.25 ppolyf_u_1k
R$55 \$31 \$52 vsubs 128250 ppolyf_u_1k
* device instance $56 r0 *1 369.9,141.25 ppolyf_u_1k
R$56 \$30 \$52 vsubs 128250 ppolyf_u_1k
* device instance $57 r0 *1 372.9,141.25 ppolyf_u_1k
R$57 \$30 \$47 vsubs 128250 ppolyf_u_1k
* device instance $58 r0 *1 375.9,141.25 ppolyf_u_1k
R$58 \$29 \$47 vsubs 128250 ppolyf_u_1k
* device instance $59 r0 *1 378.9,141.25 ppolyf_u_1k
R$59 \$29 \$46 vsubs 128250 ppolyf_u_1k
* device instance $60 r0 *1 381.9,141.25 ppolyf_u_1k
R$60 \$28 \$46 vsubs 128250 ppolyf_u_1k
* device instance $61 r0 *1 384.9,141.25 ppolyf_u_1k
R$61 \$28 \$53 vsubs 128250 ppolyf_u_1k
* device instance $62 r0 *1 387.9,141.25 ppolyf_u_1k
R$62 \$36 \$53 vsubs 128250 ppolyf_u_1k
* device instance $63 r0 *1 394.9,140 ppolyf_u_1k
R$63 \$25 \$45 vsubs 127000 ppolyf_u_1k
* device instance $64 r0 *1 397.9,140 ppolyf_u_1k
R$64 \$27 \$45 vsubs 127000 ppolyf_u_1k
* device instance $65 r0 *1 400.9,140 ppolyf_u_1k
R$65 \$27 \$44 vsubs 127000 ppolyf_u_1k
* device instance $66 r0 *1 403.9,140 ppolyf_u_1k
R$66 \$11 \$44 vsubs 127000 ppolyf_u_1k
* device instance $67 r0 *1 410.9,100.5 ppolyf_u_1k
R$67 \$23 \$43 vsubs 87500 ppolyf_u_1k
* device instance $68 r0 *1 413.9,100.5 ppolyf_u_1k
R$68 \$24 \$43 vsubs 87500 ppolyf_u_1k
* device instance $69 r0 *1 420.9,17.375 ppolyf_u_1k
R$69 \$4 \$37 vsubs 4375 ppolyf_u_1k
* device instance $70 r0 *1 423.9,17.375 ppolyf_u_1k
R$70 \$23 \$37 vsubs 4375 ppolyf_u_1k
* device instance _10 r0 *1 0,0 
R_10 \$10 \$10__par 4967.8583
* device instance _10 r0 *1 0,0 
C_10 \$10__par vsubs 5.978126e-14
* device instance _11 r0 *1 0,0 
R_11 \$11 \$11__par 7855.0506
* device instance _11 r0 *1 0,0 
C_11 \$11__par vsubs 8.4779094e-14
* device instance _12 r0 *1 0,0 
R_12 \$12 \$12__par 4876.8874
* device instance _12 r0 *1 0,0 
C_12 \$12__par vsubs 5.7923066e-14
* device instance _13 r0 *1 0,0 
R_13 \$13 \$13__par 4690.5254
* device instance _13 r0 *1 0,0 
C_13 \$13__par vsubs 5.2350545e-14
* device instance _14 r0 *1 0,0 
R_14 \$14 \$14__par 4792.4183
* device instance _14 r0 *1 0,0 
C_14 \$14__par vsubs 5.9161863e-14
* device instance _15 r0 *1 0,0 
R_15 \$15 \$15__par 4883.997
* device instance _15 r0 *1 0,0 
C_15 \$15__par vsubs 6.0794305e-14
* device instance _16 r0 *1 0,0 
R_16 \$16 \$16__par 4848.4085
* device instance _16 r0 *1 0,0 
C_16 \$16__par vsubs 5.9751918e-14
* device instance _17 r0 *1 0,0 
R_17 \$17 \$17__par 4818.8511
* device instance _17 r0 *1 0,0 
C_17 \$17__par vsubs 5.4330567e-14
* device instance _18 r0 *1 0,0 
R_18 \$18 \$18__par 4819.3911
* device instance _18 r0 *1 0,0 
C_18 \$18__par vsubs 5.4548635e-14
* device instance _19 r0 *1 0,0 
R_19 \$19 \$19__par 4819.931
* device instance _19 r0 *1 0,0 
C_19 \$19__par vsubs 5.4766704e-14
* device instance _20 r0 *1 0,0 
R_20 \$20 \$20__par 4820.471
* device instance _20 r0 *1 0,0 
C_20 \$20__par vsubs 5.4984773e-14
* device instance _21 r0 *1 0,0 
R_21 \$21 \$21__par 4848.0503
* device instance _21 r0 *1 0,0 
C_21 \$21__par vsubs 5.7785044e-14
* device instance _23 r0 *1 0,0 
R_23 \$23 \$23__par 7667.0394
* device instance _23 r0 *1 0,0 
C_23 \$23__par vsubs 7.6118691e-14
* device instance _24 r0 *1 0,0 
R_24 \$24 \$24__par 2791.7858
* device instance _24 r0 *1 0,0 
C_24 \$24__par vsubs 7.4268842e-14
* device instance _25 r0 *1 0,0 
R_25 \$25 \$25__par 2787.2554
* device instance _25 r0 *1 0,0 
C_25 \$25__par vsubs 2.545538e-14
* device instance _27 r0 *1 0,0 
R_27 \$27 \$27__par 18.25
* device instance _27 r0 *1 0,0 
C_27 \$27__par vsubs 1.8067e-15
* device instance _28 r0 *1 0,0 
R_28 \$28 \$28__par 18.25
* device instance _28 r0 *1 0,0 
C_28 \$28__par vsubs 1.8067e-15
* device instance _29 r0 *1 0,0 
R_29 \$29 \$29__par 18.25
* device instance _29 r0 *1 0,0 
C_29 \$29__par vsubs 1.8067e-15
* device instance _3 r0 *1 0,0 
R_3 \$3 \$3__par 5084.0134
* device instance _3 r0 *1 0,0 
C_3 \$3__par vsubs 6.8147207e-14
* device instance _30 r0 *1 0,0 
R_30 \$30 \$30__par 18.25
* device instance _30 r0 *1 0,0 
C_30 \$30__par vsubs 1.8067e-15
* device instance _31 r0 *1 0,0 
R_31 \$31 \$31__par 18.25
* device instance _31 r0 *1 0,0 
C_31 \$31__par vsubs 1.8067e-15
* device instance _32 r0 *1 0,0 
R_32 \$32 \$32__par 18.25
* device instance _32 r0 *1 0,0 
C_32 \$32__par vsubs 1.8067e-15
* device instance _33 r0 *1 0,0 
R_33 \$33 \$33__par 18.25
* device instance _33 r0 *1 0,0 
C_33 \$33__par vsubs 1.8067e-15
* device instance _34 r0 *1 0,0 
R_34 \$34 \$34__par 18.25
* device instance _34 r0 *1 0,0 
C_34 \$34__par vsubs 1.8067e-15
* device instance _35 r0 *1 0,0 
R_35 \$35 \$35__par 8008.5898
* device instance _35 r0 *1 0,0 
C_35 \$35__par vsubs 8.7590412e-14
* device instance _36 r0 *1 0,0 
R_36 \$36 \$36__par 2787.674
* device instance _36 r0 *1 0,0 
C_36 \$36__par vsubs 3.3170077e-14
* device instance _37 r0 *1 0,0 
R_37 \$37 \$37__par 18.25
* device instance _37 r0 *1 0,0 
C_37 \$37__par vsubs 1.8067e-15
* device instance _4 r0 *1 0,0 
R_4 \$4 \$4__par 7796.7657
* device instance _4 r0 *1 0,0 
C_4 \$4__par vsubs 7.8325844e-14
* device instance _43 r0 *1 0,0 
R_43 \$43 \$43__par 18.25
* device instance _43 r0 *1 0,0 
C_43 \$43__par vsubs 1.8067e-15
* device instance _44 r0 *1 0,0 
R_44 \$44 \$44__par 18.25
* device instance _44 r0 *1 0,0 
C_44 \$44__par vsubs 1.8067e-15
* device instance _45 r0 *1 0,0 
R_45 \$45 \$45__par 18.25
* device instance _45 r0 *1 0,0 
C_45 \$45__par vsubs 1.8067e-15
* device instance _46 r0 *1 0,0 
R_46 \$46 \$46__par 18.25
* device instance _46 r0 *1 0,0 
C_46 \$46__par vsubs 1.8067e-15
* device instance _47 r0 *1 0,0 
R_47 \$47 \$47__par 18.25
* device instance _47 r0 *1 0,0 
C_47 \$47__par vsubs 1.8067e-15
* device instance _48 r0 *1 0,0 
R_48 \$48 \$48__par 18.25
* device instance _48 r0 *1 0,0 
C_48 \$48__par vsubs 1.8067e-15
* device instance _49 r0 *1 0,0 
R_49 \$49 \$49__par 18.25
* device instance _49 r0 *1 0,0 
C_49 \$49__par vsubs 1.8067e-15
* device instance _50 r0 *1 0,0 
R_50 \$50 \$50__par 18.25
* device instance _50 r0 *1 0,0 
C_50 \$50__par vsubs 1.8067e-15
* device instance _51 r0 *1 0,0 
R_51 \$51 \$51__par 18.25
* device instance _51 r0 *1 0,0 
C_51 \$51__par vsubs 1.8067e-15
* device instance _52 r0 *1 0,0 
R_52 \$52 \$52__par 18.25
* device instance _52 r0 *1 0,0 
C_52 \$52__par vsubs 1.8067e-15
* device instance _53 r0 *1 0,0 
R_53 \$53 \$53__par 18.25
* device instance _53 r0 *1 0,0 
C_53 \$53__par vsubs 1.8067e-15
* device instance _6 r0 *1 0,0 
R_6 \$6 \$6__par 4871.7578
* device instance _6 r0 *1 0,0 
C_6 \$6__par vsubs 5.5851412e-14
* device instance _7 r0 *1 0,0 
R_7 \$7 \$7__par 5396.0003
* device instance _7 r0 *1 0,0 
C_7 \$7__par vsubs 7.9168117e-14
* device instance _9 r0 *1 0,0 
R_9 \$9 \$9__par 4684.5858
* device instance _9 r0 *1 0,0 
C_9 \$9__par vsubs 4.9951788e-14
* device instance BIAS_OK r0 *1 0,0 
RBIAS_OK BIAS_OK BIAS_OK__par 4679.0384
* device instance BIAS_OK r0 *1 0,0 
CBIAS_OK BIAS_OK__par vsubs 4.7753184e-14
* device instance IBIAS r0 *1 0,0 
RIBIAS IBIAS IBIAS__par 4663.4113
* device instance IBIAS r0 *1 0,0 
CIBIAS IBIAS__par vsubs 4.1483963e-14
* device instance VDD r0 *1 0,0 
RVDD VDD VDD__par 371.4414
* device instance VDD r0 *1 0,0 
CVDD VDD__par vsubs 1.29011679e-13
* device instance VREF r0 *1 0,0 
RVREF VREF VREF__par 7695.5815
* device instance VREF r0 *1 0,0 
CVREF VREF__par vsubs 7.3513489e-14
* device instance VSS r0 *1 0,0 
RVSS VSS VSS__par 145.0127
* device instance VSS r0 *1 0,0 
CVSS VSS__par vsubs 2.53079568e-13
.ENDS bias_core
